US07078414B2
333.9 mg (2.4 mmol) 4-methyl-1H-pyrrole-3-carboxylic acid methyl ester, 891.5 mg (4.2 mmol) tri-potassium phosphate, 4 mg (0.02 mmol) CuI, 22 mg (0.2 mmol) 1,2-diaminocyclohexane and 317.9 mg (2 mmol) of 2-bromopyrimidine was suspended in 3 mL of dioxane. After addition of 90 μl of dodecane the mixture was heated in a sealed tube under argon for 12 h at 100° C. The mixture was cooled to room temperature and then diluted with water, followed by extraction with ethyl acetate. The organic layer was washed with water (twice), dried over anhydrous sodium sulfate. After filtration the solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column flash chromatography (eluent: heptane/dichloromethane/methanol=25/2/1) to obtain 300 mg of 4-Methyl-1-pyrimidin-2-yl-1H-pyrrole-3-carboxylic acid methyl ester as a white solid.

reactant | 4-methyl-1H-pyrrole-3-carboxylic acid methyl ester | 2.4 mmol, 333.9 mg | COC(=O)C1=CNC=C1C | C7H9NO2
reactant | tri-potassium phosphate | 4.2 mmol, 891.5 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,2-diaminocyclohexane | 0.2 mmol, 22 mg | NC1C(CCCC1)N | C6H14N2
reactant | 2-bromopyrimidine | 2 mmol, 317.9 mg | BrC1=NC=CC=N1 | C4H3BrN2
reactant | dodecane | 90 μl | CCCCCCCCCCCC | C12H26
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | CuI | 0.02 mmol, 4 mg | [Cu]I
product | 4-Methyl-1-pyrimidin-2-yl-1H-pyrrole-3-carboxylic acid methyl ester | 300 mg | COC(=O)C1=CN(C=C1C)C1=NC=CC=N1 | C11H11N3O2
